US06245778B1
N-(6-Methyl-5,6,7,8-tetrahydro[1,6]naphthyridin-3-yl)-3-bromo-4-methoxybenzamide, monohydrochloride
3-Amino-6-methyl-5,6,7,8-tetrahydro[1,6]naphthyridine (300 mg; 1.84 mmol) was dissolved in dry tetrahydrofuran (10 ml) under argon and treated with a solution of 3-bromo-4-methoxybenzoyl chloride (459 mg; 1.84 mmol) in dry tetrahydrofuran (10 ml). The mixture was stirred at ambient temperatures for 18 h and the product (720 mg; 95%) collected by filtration washed with tetrahydrofuran and dried.

reactant | 3-Amino-6-methyl-5,6,7,8-tetrahydro[1,6]naphthyridine | 1.84 mmol, 300 mg | NC=1C=NC=2CCN(CC2C1)C | C9H13N3
reactant | 3-bromo-4-methoxybenzoyl chloride | 1.84 mmol, 459 mg | BrC=1C=C(C(=O)Cl)C=CC1OC | C8H6BrClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(6-Methyl-5,6,7,8-tetrahydro[1,6]naphthyridin-3-yl)-3-bromo-4-methoxybenzamide, monohydrochloride | Cl.CN1CC=2C=C(C=NC2CC1)NC(C1=CC(=C(C=C1)OC)Br)=O | InChI=1S/C17H18BrN3O2.ClH/c1-21-6-5-15-12(10-21)7-13(9-19-15)20-17(22)11-3-4-16(23-2)14(18)8-11;/h3-4,7-9H,5-6,10H2,1-2H3,(H,20,22);1H
